US09210931B2
Step 1: Preparation of tert-Butyl (4-bromo-1H-imidazol-1-yl)carbamate
4-Bromo-1H-imidazole (3.2 g, 21.8 mmol) was weighed into a 500 mL round bottomed flask equipped with a magnetic stir bar under a nitrogen atmosphere. Anhydrous N,N-dimethylformamide (DMF, 12 mL) was added and the mixture was placed on ice. After 10 minutes the mixture was treated with sodium hydride (0.840 g, 21.0 mmol 60% dispersion in oil). After 5 minutes, the ice bath was removed and the reaction warmed to room temperature. After 15 minutes of vigorous stirring the ice bath was re-inserted and 3-(4-cyano-phenyl)-oxaziridine-2-carboxylic acid tert-butyl ester (1.92 g, 7.80 mmol) was added. The reaction was vigorously stirred for 5 minutes and the ice bath was removed. After 5 minutes the mixture was diluted with saturated sodium bicarbonate and extracted with ethyl acetate. The organics were washed with dilute sodium carbonate, dried over sodium sulfate, and concentrated. The residue was purified using silica gel chromatography (0-5% methanol/dichloromethane) to afford the title compound (1.16 g, 4.43 mmol, 57%) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 9.22 (s, 1H), 7.36 (d, J=1.5 Hz, 1H), 6.97 (d, J=1.5 Hz, 1H), 1.48 (s, 9H); ESIMS m/z 262 ([M]+), 260 ([M−2]−).

reactant | 4-Bromo-1H-imidazole | 21.8 mmol, 3.2 g | BrC=1N=CNC1 | C3H3BrN2
reactant | sodium hydride | 21.0 mmol, 0.840 g | [H-].[Na+]
reactant | 3-(4-cyano-phenyl)-oxaziridine-2-carboxylic acid tert-butyl ester | 7.80 mmol, 1.92 g | C(C)(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (4-bromo-1H-imidazol-1-yl)carbamate | 4.43 mmol, 1.16 g, 57% | BrC=1N=CN(C1)NC(OC(C)(C)C)=O | C8H12BrN3O2
